US07312236B2
Combine (4-(3-bromo-2-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine (preparation 7, 1.70 g, 6.84 mmol), benzophenone imine (1.24 g, 6.84 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.104 g, 0.11 mmol), racemic BINAP (0.142 g, 0.228 mmol), and sodium t-butoxide (0.767 g, 0.8 mmol) with toluene (5 mL) and heat at reflux for 2 hr. Dissolve the reaction mixture in MeOH and filter through a SCX column (Bond Elut™, 10 g), wash with MeOH, elute the product with 2M NH3 in MeOH, evaporate the solvent, and further purify on a silica gel column (DCM:2M NH3 in MeOH, gradient) to give pure benzhydrylidene-(3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-amine (2.39 g): MS (ES): m/z=399 (M+H)+. 1H NMR (CDCl3): δ 7.76 (m, 2H), 7.46 (m, 1H), 7.40 (m, 2H), 7.25 (m, 4H), 7.13 (m, 2H), 6.85 (m, 1H), 6.73 (m, 1H), 6.65 (m, 1H), 5.70 (m, 1H), 3.05 (m, 1H), 2.61 (s, 6H), 2.6-2.2 (m, 5H), 1.75 (m, 1H).

reactant | (4-(3-bromo-2-fluoro-phenyl)-cyclohex-3-enyl)-dimethyl-amine | 6.84 mmol, 1.70 g | BrC=1C(=C(C=CC1)C1=CCC(CC1)N(C)C)F | C14H17BrFN
reactant | benzophenone imine | 6.84 mmol, 1.24 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium t-butoxide | 0.8 mmol, 0.767 g | CC(C)([O-])C.[Na+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.11 mmol, 0.104 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.228 mmol, 0.142 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | benzhydrylidene-(3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-amine | 2.39 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C(=CC=C1)C1=CCC(CC1)N(C)C)F | C27H27FN2
